US05591762
Methyl 4'-[[2-n-propyl-4-methyl-6-(4-methyl-imidazol-2-yl)-1H-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylate
A solution of 0.35 g (0.7 mMol) of methyl 4'-[[2-n-propyl-4-methyl-6-(4-methyl-imidazolin-2-yl)-1H-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylate in 10 ml of toluene is mixed with 0.16 g palladium (10% on activated charcoal) under nitrogen and the mixture is refluxed for 66 hours. Then the toluene is evaporated off, the residue is taken up in methylene chloride, filtered and evaporated down. The crude product is chromatographed on silica gel (particle size: 0.032-0.063 mm) using as eluant methylene chloride to start with, later followed by methylene chloride/ethanol/ammonia (50:1:0.05, 20:1:0.02, 10:1:0.01 and 5:1:0.005). The uniform fractions are combined and evaporated down.

reactant | methyl 4'-[[2-n-propyl-4-methyl-6-(4-methyl-imidazolin-2-yl)-1H-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylate | 0.7 mMol, 0.35 g | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC)C=C(C=C2C)C=2NCC(N2)C | C30H32N4O2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium | 0.16 g | [Pd] | Pd
product | Methyl 4'-[[2-n-propyl-4-methyl-6-(4-methyl-imidazol-2-yl)-1H-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylate | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC)C=C(C=C2C)C=2NC=C(N2)C | C30H30N4O2
